US07482336B2
Step G: trans 6-(2,4,5-Trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-amine
To a stirred solution of {[3-azido-4-(2,4,5-trifluorophenyl)cyclohex-1-en-1-yl]oxy}(triisopropyl)silane (48.2 g) in ether (280 mL) at 0° C. in a three-neck flask (1 L) was added lithium aluminum hydride (1M in ether, 85 mL) while maintaining the temperature below 5° C. The reaction mixture was allowed to warm up to room temperature after completion of addition of the hydride. The mixture was transferred to ice with some saturated aqueous ammonium chloride solution and filtered. The residue was washed with ethyl acetate (1 L), and the organic layer separated, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was chromatographed (silica gel, gradient 10-35% ethyl acetate in heptane) to yield the faster eluting cis- and the slower-eluting trans 6-(2,4,5-trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-amine.

reactant | {[3-azido-4-(2,4,5-trifluorophenyl)cyclohex-1-en-1-yl]oxy}(triisopropyl)silane | 48.2 g | N(=[N+]=[N-])C1C=C(CCC1C1=C(C=C(C(=C1)F)F)F)O[Si](C(C)C)(C(C)C)C(C)C | C21H30F3N3OSi
reactant | lithium aluminum hydride | 1M, 85 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydride | [H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 280 mL | CCOCC | C4H10O
product | trans 6-(2,4,5-Trifluorophenyl)-3-[(triisopropylsilyl)oxy]cyclohex-2-en-1-amine | FC1=C(C=C(C(=C1)F)F)[C@@H]1CCC(=C[C@H]1N)O[Si](C(C)C)(C(C)C)C(C)C | C21H32F3NOSi
